US20010018438A1
A mixture of 3-trifluoromethanesulfonyl-5-(4-methoxyphenyl)-6-(4-pyridyl)-1-methyl-1H-pyridin-2-one (0.055 g), benzeneboronic acid (0.25 g) and aqueous sodium carbonate (2M; 2 cm3) in dimethoxyethane (5 cm3) was degassed and purged with nitrogen at room temperature. Tetrakis(triphenylphosphine)palladium (0) (0.1 g) was added and the mixture was refluxed under nitrogen for 2 hours. The mixture was diluted with water (10 cm3) and extracted with ethyl acetate (3×10 cm3). The extracts were dried (sodium sulphate), filtered and concentrated. Preparative thin layer chromatography, elating with 95:5 dichloromethane-methanol, gave 5-(4-methoxyphenyl)-6-(4-pyridyl) 3-phenyl-1-methyl-1H-pyridin-2-one (0.028 g; 61%) as a pale pink foam. Recrystallised to give a beige powder m.p. 183-185° C. (EtOAc-hexane). δH (360 MHz; CDCl3) 3.39 (3 H, s, NCH3), 3.73 (3 H, s, OCH3), 6.69 (2 H, d, J 9, methoxyphenyl H-2), 6.90 (2 H, d, J 9, methoxyphenyl H-3), 7.13 (2 H, d, J 6, pyridyl H-3), 7.35-7.44 (3 H, m, 3 of Ph), 7.59 (1 H, s, pyridone H-4), 7.77 (2 H, d, J 8, 2 of Ph) and 8.60 (2 H, d, J 6, pyridyl H-2); m/z (ESP+) 369 (MH+; 100%).

reactant | 3-trifluoromethanesulfonyl-5-(4-methoxyphenyl)-6-(4-pyridyl)-1-methyl-1H-pyridin-2-one | 0.055 g | FC(S(=O)(=O)C=1C(N(C(=C(C1)C1=CC=C(C=C1)OC)C1=CC=NC=C1)C)=O)(F)F | C19H15F3N2O4S
reactant | benzeneboronic acid | 0.25 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | sodium carbonate | 2M, 2 cm3 | C([O-])([O-])=O.[Na+].[Na+]
solvent | dimethoxyethane | 5 cm3 | C(OC)COC | C4H10O2
product | 5-(4-methoxyphenyl)-6-(4-pyridyl) 3-phenyl-1-methyl-1H-pyridin-2-one | 0.028 g, 61% | COC1=CC=C(C=C1)C=1C=C(C(N(C1C1=CC=NC=C1)C)=O)C1=CC=CC=C1 | C24H20N2O2
